### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): StrictSegal simplicial sets are 2-coskeletal

### PR DESCRIPTION
**Pull request by emilyriehl**
We prove that if `X` is a simplicial set that is `StrictSegal` then `X` is 2-coskeletal, meaning `(coskAdj 2).unit.app X` defines an isomorphism `StrictSegal.cosk2Iso : X ≅ (Truncated.cosk 2).obj ((truncation 2).obj X)`. 

This is proven by demonstrating that `(rightExtensionInclusion X n).IsPointwiseRightKanExtension` holds. 

Co-Authored-By: [Mario Carneiro](https://github.com/digama0) and [Joël Riou](https://github.com/joelriou) 

---
- [ ] depends on: #19492 

This replaces #16782, half of which has already been merged.

Note this file does not currently contain a definition of `n-coskeletal` because it wasn't clear to me which form of that definition would be most useful. My guess is that it should be something like `IsIso ((coskAdj n).unit.app X)`. Please let me know if this is something you'd like me to add or if you have other suggestions.

-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 1]
```diff
@@ -0,0 +1,441 @@
...
+        rw [this, show (δ 0 : [1] ⟶ [2]) = mkOfSucc 1 from Hom.ext_one_left ..]
+        rfl
+
+namespace StrictSegal
+variable (X : SSet.{u}) [StrictSegal X]
+
+/-- A strict Segal simplicial set is 2-coskeletal. -/
+noncomputable def IsPointwiseRightKanExtensionAt (n : ℕ) :
+    (rightExtensionInclusion X 2).IsPointwiseRightKanExtensionAt ⟨[n]⟩ := by
+  show IsLimit _
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:309]: When defining data, it is not recommended to apply too many tactics, especially `simp`. The structure of the code should be like this:
```suggestion
    (rightExtensionInclusion X 2).IsPointwiseRightKanExtensionAt ⟨[n]⟩ where
  lift s x := ran.lift (X := X) s x
  fac := sorry
  uniq := sorry
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 2]
```diff
@@ -0,0 +1,441 @@
...
+        have := congr_fun (s.π.naturality facemap₀) x
+        dsimp [facemap₀] at this
+        rw [this, show (δ 0 : [1] ⟶ [2]) = mkOfSucc 1 from Hom.ext_one_left ..]
+        rfl
+
+namespace StrictSegal
+variable (X : SSet.{u}) [StrictSegal X]
+
+/-- A strict Segal simplicial set is 2-coskeletal. -/
+noncomputable def IsPointwiseRightKanExtensionAt (n : ℕ) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:307]:
```suggestion
noncomputable def isPointwiseRightKanExtensionAt (n : ℕ) :
```

**Comment by joelriou** [comment]
I have tried to improve the code in the branch https://github.com/leanprover-community/mathlib4/tree/coskeletal_jriou
see https://github.com/leanprover-community/mathlib4/blob/coskeletal_jriou/Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (which is still a kind of draft, and there is still a not so hard sorry).
Mostly, we may avoid introducing too many auxiliary definitions. Also, when checking equalities between `2`-simplices of strict Segal simplicial sets, it suffices to check two equalities between arrows (as the equalities between vertices can be deduces from these): see the additional ext lemmas at https://github.com/leanprover-community/mathlib4/blob/coskeletal_jriou/Mathlib/AlgebraicTopology/SimplicialSet/Path.lean

**Comment by joelriou** [comment]
> see the additional ext lemmas at https://github.com/leanprover-community/mathlib4/blob/coskeletal_jriou/Mathlib/AlgebraicTopology/SimplicialSet/Path.lean
Actually, these should be generalized as an `ext` lemma for paths of length `n + 1`.

**Comment by joelriou** [comment]
In general, could you tag your PR with `t-category-theory` rather than `t-topology`? We do not have `t-algebraic-topology` (nor `t-homology`), but these constructions on simplicial sets, etc, fit much more the `t-category-theory` tag as compared to `t-topology` which is very much related to topological spaces. (Also, `t-topology` is mostly under my radar, but I follow quite closely the contributions in `t-category-theory`.)

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 2 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]: Done (with your branch).

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 3]
```diff
@@ -0,0 +1,441 @@
...
+universe v u
+
+open CategoryTheory Simplicial SimplexCategory Opposite Category Functor Limits
+
+namespace SSet
+
+/-- The identity natural transformation exhibits a simplicial set as a right extension of its
+restriction along `(Truncated.inclusion (n := n)).op`.-/
+@[simps!]
+def rightExtensionInclusion (X : SSet.{u}) (n : ℕ) :
```
[the remark this answers is not in the document]
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:35]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]: Done (with your branch).

**Comment by gio256** [comment]
@emilyriehl I apologize, I should have warned you about this, but #19349 introduced the lemma suggested by @joelriou to the `master` branch. This is likely the source of your merge conflict now.

I'm happy to help resolve this, although I'm not positive what the best route is. Normally, I would open a PR against your fork resolving the conflict. In this case, I suspect a PR opened against this branch might require a maintainer to merge. I *think* I might be able to push directly to your branch, but that would obviously require some coordination to make sure I don't push anything that conflicts with your work.

**Comment by emilyriehl** [comment]
Thanks @gio256. The conflict was silly (just two new lemmas in the same place) but your `Path.ext` seemed better/more general than the versions `Path.ext_1` and `Path.ext_2` that @joelriou had defined in a branch of this PR. So I cut those and fixed everything (I think). But if I'm still stuck, I may take you up on your offer of help. Thanks.

**Comment by emilyriehl** [comment]
@joelriou I've
- merged your branch
- filled in that sorry (with a proof I'm sure needs golfing...)
- bumped mathlib (and replaced your two Path.ext lemmas with `Path.ext'`)
- implemented all the suggestions above with one exception I'll now describe.

I'll now open up a new PR which defines IsCoskeletal at the level of simplicial objects. I'm hoping that will simplify and perhaps speed up the review.

**Comment by emilyriehl** [comment]
Update: see #19492.

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 4]
```diff
@@ -0,0 +1,270 @@
...
+  uniq s m hm := by
+    ext x
+    apply StrictSegal.spineInjective (X := X)
+    dsimp [spineEquiv]
+    rw [StrictSegal.spine_spineToSimplex]
+    ext i
+    · exact congr_fun (hm (StructuredArrow.mk (Y := op [0]₂) ([0].const [n] i).op)) x
+    · exact congr_fun (hm (.mk (Y := op [1]₂) (.op (mkOfLe _ _ (Fin.castSucc_le_succ i))))) x
+
+/-- Since `rightExtensionInclusion₂IsPointwiseRightKanExtensionAt X n` proves that the appropriate
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:215]:
```suggestion
/-- Since `StrictSegal.isPointwiseRightKanExtensionAt` proves that the appropriate
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 5]
```diff
@@ -0,0 +1,270 @@
...
+cones are limit cones, `rightExtensionInclusion X 2` is a pointwise right Kan extension.-/
+noncomputable def isPointwiseRightKanExtension :
+    RightExtension.IsPointwiseRightKanExtension (rightExtensionInclusion X 2) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:218]: We can use dot notation:
```suggestion
    (rightExtensionInclusion X 2).IsPointwiseRightKanExtension :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 6]
```diff
@@ -0,0 +1,270 @@
...
+  fun Δ => isPointwiseRightKanExtensionAt X Δ.unop.len
+
+theorem isRightKanExtension :
+    (rightExtensionInclusion X 2).left.IsRightKanExtension (rightExtensionInclusion X 2).hom :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:222]:
```suggestion
    X.IsRightKanExtension (𝟙 ((inclusion 2).op ⋙ X)) :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 7]
```diff
@@ -0,0 +1,270 @@
...
+  RightExtension.IsPointwiseRightKanExtension.isRightKanExtension
+    (isPointwiseRightKanExtension X)
+
+/-- When `X` is `StrictSegal`, `X` is 2-coskeletal. -/
+instance isCoskeletal : SimplicialObject.IsCoskeletal X 2 where
+  isRightKanExtension := isRightKanExtension X
+
+/-- The canonical isomorphism `X ≅ (cosk 2).obj X` defined when `X` is `StrictSegal`. -/
+noncomputable def isoCosk2 : X ≅ (cosk 2).obj X := SimplicialObject.isoCoskOfIsCoskeletal X 2
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:232]: This can be removed: because of the typeclass system, when `X` is strict Segal, it is 2-coskeletal due to the instance above, and then the isomorphism is just `X.isoCoskOfIsCoskeletal 2`.
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 8]
```diff
@@ -0,0 +1,270 @@
...
+end SSet
+
+namespace CategoryTheory
+
+namespace Nerve
+
+open SSet
+
+instance isCoskeletal (C : Type u) [Category.{v} C] :
+    SimplicialObject.IsCoskeletal (nerve C) 2 := by infer_instance
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:246]: When something is already an instance (here because we already now `nerve C` is strict Segal), it is not necessary to declare it, but in order to point out a fact to the reader, it is advisable to use `example`:
```suggestion
example (C : Type u) [Category.{v} C] :
    SimplicialObject.IsCoskeletal (nerve C) 2 := by infer_instance
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 9]
```diff
@@ -0,0 +1,270 @@
...
+/-- The natural isomorphism between `nerveFunctor` and `nerveFunctor ⋙ Truncated.cosk 2` whose
+components `nerve C ≅  (Truncated.cosk 2).obj (nerve₂ C)` shows that nerves of categories are
+2-coskeletal.-/
+noncomputable def cosk2Iso : nerveFunctor.{u, u} ≅ nerveFunctor₂.{u, u} ⋙ Truncated.cosk 2 := by
+  refine NatIso.ofComponents ?_ ?_
+  · intro C
+    dsimp [nerveFunctor, nerveFunctor₂]
+    exact (StrictSegal.isoCosk2 (nerve C))
+  · simp only [nerveFunctor_obj, comp_obj, id_eq, Functor.comp_map]
+    convert cosk2NatTrans.naturality
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:266]:
```suggestion
/-- The natural isomorphism between `nerveFunctor` and `nerveFunctor ⋙ Truncated.cosk 2` whose
components `nerve C ≅ (Truncated.cosk 2).obj (nerve₂ C)` shows that nerves of categories are
2-coskeletal.-/
noncomputable def cosk₂Iso : nerveFunctor.{u, v} ≅ nerveFunctor₂.{v, u} ⋙ Truncated.cosk 2 :=
  NatIso.ofComponents (fun C ↦ (nerve C).isoCoskOfIsCoskeletal 2)
    (fun _ ↦ (coskAdj 2).unit.naturality _)
```

Then, you may remove the definition `cosk2NatTrans`, because it is always an isomorphism.
You may also fix the definition I had made of `nerveFunctor` by making the universe explicit:
```lean
def nerveFunctor : Cat.{v, u} ⥤ SSet where
```
Then, this will fix the order of the universes, and in this file `Coskeletal.lean`, the definition would become:
```lean
noncomputable def cosk₂Iso : nerveFunctor.{v, u} ≅ nerveFunctor₂.{v, u} ⋙ Truncated.cosk 2 :=
```
(As this may be confusing, please let me know if this does not fully make sense to you.)

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 10]
```diff
@@ -0,0 +1,270 @@
...
+import Mathlib.AlgebraicTopology.SimplicialObject.Coskeletal
+import Mathlib.AlgebraicTopology.SimplicialSet.StrictSegal
+import Mathlib.CategoryTheory.Functor.KanExtension.Adjunction
+import Mathlib.CategoryTheory.Functor.KanExtension.Basic
+
+/-!
+# Coskeletal simplicial sets
+
+In this file, we prove that if `X` is `StrictSegal` then `X` is 2-coskeletal defining
+`X ≅ (cosk 2).obj X` In particular, nerves of categories are 2-coskeletal.
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:15]:
```suggestion
In this file, we prove that if `X` is `StrictSegal` then `X` is 2-coskeletal,
i.e. `X ≅ (cosk 2).obj X`. In particular, nerves of categories are 2-coskeletal.
```

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 11]
```diff
@@ -231,6 +231,10 @@ def mkOfLe {n} (i j : Fin (n+1)) (h : i ≤ j) : ([1] : SimplexCategory) ⟶ [n]
       | 0, 1, _ => h
   }
 
+@[simp]
+lemma mkOfLe_rfl_const {n} (j : Fin (n + 1)) :
+    mkOfLe j j (by omega) = [1].const [0] 0 ≫ [0].const [n] j := Hom.ext_one_left _ _
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:236]: I think the RHS would be better in this version:
```suggestion
@[simp]
lemma mkOfLe_refl {n} (j : Fin (n + 1)) :
    mkOfLe j j (by omega) = [1].const [n] j := Hom.ext_one_left _ _
```
(This lemma does not seem to be used in the main result here.)

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 9 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 11 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean]: I've changed the lemma, as suggested, but the old version is used in the proof of the base case of fac_aux2 (see line 107) and I wasn't able to use the simpler version. Line 121 of the proof is 

```
refine congrArg (X.map ([1].const [0] 0).op) ?_
```
which uses the factorization of the constant map.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean [hunk 12]
```diff
@@ -37,7 +37,7 @@ instance {C : Type*} [Category C] {Δ : SimplexCategoryᵒᵖ} : Category ((nerv
 
 /-- The nerve of a category, as a functor `Cat ⥤ SSet` -/
 @[simps]
-def nerveFunctor : Cat ⥤ SSet where
+def nerveFunctor : Cat.{v,u} ⥤ SSet where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean:40]:
```suggestion
def nerveFunctor : Cat.{v, u} ⥤ SSet where
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 13]
```diff
@@ -0,0 +1,260 @@
...
+              Quiver.Hom.unop_inj (by ext x ; fin_cases x <;> rfl)
+            rw [this, h₀, ← congr_fun (s.w β₀) x]
+            rfl
+      rw [← StructuredArrow.w β₁, FunctorToTypes.map_comp_apply, this, ← s.w β₁]
+      dsimp
+
+lemma fac_aux₃ {n : ℕ}
+    (s : Cone (proj (op [n]) (Truncated.inclusion 2).op ⋙ (Truncated.inclusion 2).op ⋙ X))
+    (x : s.pt)
+    (φ : [1] ⟶ [n]) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:171]:
```suggestion
    (x : s.pt) (φ : [1] ⟶ [n]) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 14]
```diff
@@ -0,0 +1,260 @@
...
+      let α : (strArrowMk₂ ([0].const [n] ⟨i, Nat.lt_add_one_of_le hj⟩) (by omega)) ⟶
+        (strArrowMk₂ ([1].const [0] 0 ≫ [0].const [n] ⟨i, Nat.lt_add_one_of_le hj⟩) (by omega)) :=
+            StructuredArrow.homMk (([1].const [0] 0).op) (by simp; rfl)
+      have nat := congr_fun (s.π.naturality α) x
+      dsimp only [Fin.val_zero, Nat.add_zero, id_eq, Int.reduceNeg, Int.Nat.cast_ofNat_Int,
+        Int.reduceAdd, Fin.eta, comp_obj, StructuredArrow.proj_obj, op_obj, const_obj_obj,
+        const_obj_map, types_comp_apply, types_id_apply, Functor.comp_map, StructuredArrow.proj_map,
+        op_map] at nat
+      rw [nat]
+      rw [op_comp, Functor.map_comp]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:119]:
```suggestion
      rw [nat, op_comp, Functor.map_comp]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 15]
```diff
@@ -0,0 +1,260 @@
...
+      let φ : strArrowMk₂ (mkOfLe _ _ (Fin.castSucc_le_succ i)) (by simp) ⟶
+          strArrowMk₂ ([0].const _ i.succ) (by simp) :=
+        StructuredArrow.homMk (δ 0).op
+          (Quiver.Hom.unop_inj (by ext x; fin_cases x; rfl))
+      exact congr_fun (s.w φ) x }
+
+lemma fac_aux₁ {n : ℕ}
+    (s : Cone (proj (op [n]) (Truncated.inclusion 2).op ⋙ (Truncated.inclusion 2).op ⋙ X))
+    (x : s.pt)
+    (i : ℕ) (hi : i < n) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:88]:
```suggestion
    (x : s.pt) (i : ℕ) (hi : i < n) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 16]
```diff
@@ -0,0 +1,260 @@
...
+open SSet
+
+example (C : Type u) [Category.{v} C] :
+    SimplicialObject.IsCoskeletal (nerve C) 2 := by infer_instance
+
+/-- The essential data of the nerve functor is contained in the 2-truncation, which is
+recorded by the composite functor `nerveFunctor₂`.-/
+def nerveFunctor₂ : Cat.{v, u} ⥤ SSet.Truncated 2 := nerveFunctor ⋙ truncation 2
+
+/-- The natural isomorphism between `nerveFunctor` and `nerveFunctor ⋙ Truncated.cosk 2` whose
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:251]:
```suggestion
/-- The natural isomorphism between `nerveFunctor` and `nerveFunctor₂ ⋙ Truncated.cosk 2` whose
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 17]
```diff
@@ -0,0 +1,260 @@
...
+    dsimp
+    ext k
+    · dsimp only [spineEquiv, Equiv.coe_fn_mk]
+      erw [spine_map_vertex]
+      rw [spine_spineToSimplex, spine_vertex]
+      let α : strArrowMk₂ f hi ⟶ strArrowMk₂ ([0].const [n] (f.toOrderHom k)) (by omega) :=
+        StructuredArrow.homMk (([0].const _ (by exact k)).op) (by simp; rfl)
+      exact congr_fun (s.w α).symm x
+    · dsimp only [spineEquiv, Equiv.coe_fn_mk]
+      dsimp
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:203]:
```suggestion
    · dsimp only [spineEquiv, Equiv.coe_fn_mk, spine_arrow]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 18]
```diff
@@ -0,0 +1,256 @@
...
+    X.map (mkOfSucc ⟨i, hi⟩).op (lift s x) =
+      s.π.app (strArrowMk₂ (mkOfSucc ⟨i, hi⟩) (by omega)) x := by
+  dsimp [lift]
+  rw [spineToSimplex_arrow]
+  rfl
+
+lemma fac_aux₂ {n : ℕ}
+    (s : Cone (proj (op [n]) (Truncated.inclusion 2).op ⋙ (Truncated.inclusion 2).op ⋙ X))
+    (x : s.pt)
+    (i j : ℕ) (hij : i ≤ j) (hj : j ≤ n) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:97]:
```suggestion
    (x : s.pt) (i j : ℕ) (hij : i ≤ j) (hj : j ≤ n) :
```

**Comment by joelriou** [comment]
maintainer merge

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 19]
```diff
@@ -0,0 +1,255 @@
...
+
+end Truncated
+
+section
+
+local notation (priority := high) "[" n "]" => SimplexCategory.mk n
+
+set_option quotPrecheck false
+local macro:max (priority := high) "[" n:term "]₂" : term =>
+  `((⟨SimplexCategory.mk $n, by decide⟩ : SimplexCategory.Truncated 2))
```
Comment (mattrobball) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:46]:
```suggestion
  `((⟨SimplexCategory.mk $n, by dsimp; omega⟩ : SimplexCategory.Truncated 2))
```
seems sufficient for this file. Is the `set_option` still needed?

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 20]
```diff
@@ -0,0 +1,255 @@
...
+
+end SSet
+
+namespace CategoryTheory
+
+namespace Nerve
+
+open SSet
+
+example (C : Type u) [Category.{v} C] :
```
Comment (mattrobball) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:239]: I don't understand the purpose of this example. If it is documentation, then no one will see it outside of a doc comment. If it is to make sure instance synthesis succeeds, then it should be a test importing more than this single file.

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 21]
```diff
@@ -0,0 +1,255 @@
...
+open isPointwiseRightKanExtensionAt in
+/-- A strict Segal simplicial set is 2-coskeletal. -/
+noncomputable def isPointwiseRightKanExtensionAt (n : ℕ) :
+    (rightExtensionInclusion X 2).IsPointwiseRightKanExtensionAt ⟨[n]⟩ where
+  lift s x := lift (X := X) s x
+  fac s j := by
+    ext x
+    obtain ⟨⟨i, hi⟩, ⟨f⟩, rfl⟩ := j.mk_surjective
+    obtain ⟨i, rfl⟩ : ∃ j, SimplexCategory.mk j = i := ⟨_, i.mk_len⟩
+    change [i] ⟶ [n] at f
```
Comment (mattrobball) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:187]:
```suggestion
    obtain ⟨⟨i, hi⟩, ⟨f :  _ ⟶ _⟩, rfl⟩ := j.mk_surjective
    obtain ⟨i, rfl⟩ : ∃ j, SimplexCategory.mk j = i := ⟨_, i.mk_len⟩
```

**Review by mattrobball — COMMENTED** [review]
Awesome seeing this stuff coming together 🎉

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 20 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: Hi @mattrobball. I don't understand what you mean by "...then it should be a test importing more than this single file." Could you explain?

That instance gets used implicitly in the final term `CategoryTheory.Nerve.cosk₂Iso` in the file. But as you guessed, instance synthesis succeeds. That term is still definable if this example is deleted.

On the other hand, to a human reader, this example and the consequent isomorphism is the whole point of this file (the main theorem). If it's consistent with style guidelines, I'd like to keep this as an explicit term so that when someone searches for this result later they'll be able to find it, without having to figure out that this is a special case of the more abstract theorem proven here (which is less "well-known"). I'd added an explicit mention to this fact in the comments at the top of the file.

Does this work for you, or would you like me to make further changes?

Comment (jcommelin) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: I think it's fine like this.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 20 above)
Comment (mattrobball) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: I'm not a big fan of `example`s in the code base because they tend to add to the imports and overall build time. They also confound environmental linters since nothing added to the environment.  

If keeping it as active code for documentation is important, I think declaring it as instance would cause less problems. But including the example as a code block in the comment itself would probably reach more eyes than doing this. 

Sometimes these examples are used to assure that instance synthesis doesn't fail under future chances. I don't think that is the intention here but I could be wrong. If it was, then one would want to assure that instance synthesis keeps working thoughout mathlib, ie nothing downstream breaks it. Having the example here does not assure this.

Comment (jcommelin) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: Those are actually good points. Maybe we should codify this more in the contributor guidelines?

Comment (mattrobball) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: One could also make it a `def` to avoid adding an instance but also making it visible to any environmental searching.  

> Those are actually good points. Maybe we should codify this more in the contributor guidelines?

I agree.

Comment (jcommelin) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: Otoh, in this specific case we aren't adding extra imports, right?
I think there is value to having this as active code, even in this file.

It can also be added in the docstring, but since it is already mentioned in the module docstring I think we're good.

Let's not block this PR on this issue. We can always change/improve later.

bors merge

Comment (mattrobball) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:240]: We should make it an honest declaration then. It would come at no cost and some benefit.
